US08258501B2
0.602 g benzimidazo[1,2-a]pyrimidine hydroperchlorate was heated for 9 h in a hydrochloric acid solution (2 M HCl) with palladium on activated charcoal, with H2 fed in. Subsequent filtration, removal of the solvent and addition of diethyl ether yielded the 1,2,3,4-tetrahydro-benzimidazo[1,2-a]pyrimidine hydrochloride in the form of colorless crystals, which were recrystallized from ethanol.

reactant | benzimidazo[1,2-a]pyrimidine | 0.602 g | N=1C=2N(C=CC1)C1=C(N2)C=CC=C1 | C10H7N3
reactant | hydrochloric acid | 2 M | Cl | ClH
catalyst | palladium on activated charcoal | [Pd] | Pd
product | 1,2,3,4-tetrahydro-benzimidazo[1,2-a]pyrimidine hydrochloride | Cl.N1C=2N(CCC1)C1=C(N2)C=CC=C1 | InChI=1S/C10H11N3.ClH/c1-2-5-9-8(4-1)12-10-11-6-3-7-13(9)10;/h1-2,4-5H,3,6-7H2,(H,11,12);1H
